US06569878B1
4-[4-Amino-5-(4-methoxy-benzoyl)-thiazol-2-ylamino]-benzoic Acid Methyl Ester
To a mixture of 4-methoxycarbonylphenyl isothiocyanate (82 mg, 0.5 mmol) and cyanamide (23 mg, 0.55 mmol) in acetonitrile (5 mL), a solution of potassium tert-butoxide (61 mg, 0.55 mmol) in tert-butanol (5 mL) was added. After 30 minutes at ambient temperature, 2-bromo-4′-methoxy-acetophenone (115 mg, 0.5 mmol) was added. After 2 hours at ambient temperature, the reaction mixture was diluted with water (50 mL). The product was collected by filtration, rinsed with water and ethyl ether, and dried under vacuum to furnish a yellow solid, 172 mg (90% yield).

reactant | 4-methoxycarbonylphenyl isothiocyanate | 0.5 mmol, 82 mg | COC(=O)C1=CC=C(C=C1)N=C=S | C9H7NO2S
reactant | cyanamide | 0.55 mmol, 23 mg | N#CN | CH2N2
reactant | potassium tert-butoxide | 0.55 mmol, 61 mg | CC(C)([O-])C.[K+]
reactant | 2-bromo-4′-methoxy-acetophenone | 0.5 mmol, 115 mg | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
solvent | water | 50 mL | O | H2O
product | 4-[4-Amino-5-(4-methoxy-benzoyl)-thiazol-2-ylamino]-benzoic Acid Methyl Ester | 90% yield | COC(C1=CC=C(C=C1)NC=1SC(=C(N1)N)C(C1=CC=C(C=C1)OC)=O)=O | C19H17N3O4S
